US05464873
A. Dimethylcyclohex-1-ene-1,2-dicarboxylate
3,4,5,6-tetrahydrophthalic anhydride (3.04 g, 0.02 mol) was disolved in methanol (25 ml) and refluxed for 2 hours. The solution was then cooled to ice bath temperature and a solution of diazomethane in diethyl ether was added dropwise until a yellow colour persisted. The solution was then allowed to stand overnight, after which time the solvent was removed in vacuo to give the title compound In 93% yield. δH (90 MHz, CDCl3) 3.66 (s,6H), 2.20 (s,4H), 1.66 ppm (s,6H)

reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.02 mol, 3.04 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | methanol | 25 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Dimethylcyclohex-1-ene-1,2-dicarboxylate | 93% yield | COC(=O)C1=C(CCCC1)C(=O)OC | C10H14O4
